US07384970B2
(S)—N-{3-Cyclohexyl-1-[2-(7-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide.
Following the procedures of Example 3, except using m-anisoyl chloride, (S)-2-amino-4-cyclohexyl-butyric acid, ethanolamine and 7-methoxyindoline as starting materials, the title compound was prepared in 30% yield. The final material was purified by reverse phase preparative HPLC Using TFA as a modifier. The final compound is therefore a partial TFA salt and the properties are reported for the material as it appeared after solvent removal: 1H NMR (CDCl3, 400 MHz) δ 0.78-0.92 (m, 2H), 1.05-1.32 (m, 6H), 1.59-1.81 (m, 6H), 1.94-2.05 (m, 1H), 3.10-3.20 (m, 2H), 3.45-3.72 (m, 5H), 3.80 (s, 3H), 3.86 (s, 3H), 4.62 (dd, 1H, J1=7.8, J2=13.7), 6.78 (d, 1H, J1=8.2), 6.86 (d, 1H, J1=7.2), 7.00-7.08 (m, 2H), 7.18-7.23 (m, 1H), 7.30-7.47 (m, 3H), 7.53-7.62 (m, 1H); HPLC-MS calcd. for C29H39N3O4 (M+H+) 494.3, found 494.5.

reactant | m-anisoyl chloride | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | (S)-2-amino-4-cyclohexyl-butyric acid | N[C@H](C(=O)O)CCC1CCCCC1 | C10H19NO2
reactant | ethanolamine | C(O)CN | C2H7NO
reactant | 7-methoxyindoline | COC=1C=CC=C2CCNC12 | C9H11NO
product | (S)—N-{3-Cyclohexyl-1-[2-(7-methoxy-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-propyl}-3-methoxy-benzamide | 30% yield | C1(CCCCC1)CC[C@@H](C(NCCN1CCC2=CC=CC(=C12)OC)=O)NC(C1=CC(=CC=C1)OC)=O | C29H39N3O4
